US07750003B2
Phenyl N-[4-[4-(2-cyclohexylsulfonylpropan-2-yl)-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]phenyl]carbamate
To a solution of 4-[4-(2-cyclohexylsulfonylpropan-2-yl)-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]aniline (1.1 g, 2.40 mmol) in 1,4-dioxane (12 mL) was added sodium bicarbonate (0.302 g, 3.60 mmol). Phenyl chloroformate (0.316 mL, 2.52 mmol) was then added dropwise and the resulting mixture was stirred at RT for 3 hours. The resulting mixture was evaporated to dryness and the residue partitioned between water (10 mL) and DCM (10 mL). The organic layer was separated and evaporated to dryness. The residue was triturated with diethyl ether to give the desired material as a solid (1.328 g).

reactant | 4-[4-(2-cyclohexylsulfonylpropan-2-yl)-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]aniline | 2.40 mmol, 1.1 g | C1(CCCCC1)S(=O)(=O)C(C)(C)C1=NC(=NC(=C1)N1[C@H](COCC1)C)C1=CC=C(N)C=C1 | C24H34N4O3S
reactant | sodium bicarbonate | 3.60 mmol, 0.302 g | C([O-])(O)=O.[Na+]
reactant | Phenyl chloroformate | 2.52 mmol, 0.316 mL | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | 1,4-dioxane | 12 mL | O1CCOCC1 | C4H8O2
product | Phenyl N-[4-[4-(2-cyclohexylsulfonylpropan-2-yl)-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]phenyl]carbamate | 1.328 g | C1(CCCCC1)S(=O)(=O)C(C)(C)C1=NC(=NC(=C1)N1[C@H](COCC1)C)C1=CC=C(C=C1)NC(OC1=CC=CC=C1)=O | C31H38N4O5S
